US09278915B2
Intermediate 106: (3,5-Dimethyl-1,2-oxazol-4-yl) boronic acid
To a 500 mL three RB flask fitted with magnetic stirrer was charged 4-bromo-3,5-dimethyl-1,2-oxazole (4.0 g, 22.7 mmol) in THF (40 mL), cooled −78° C. To the stirred solvent was added n-butyl lithium (28.4 mL, 1.6M solution, 45.0 mmol) drop wise and stirred at −65° C. about 30 minutes. The RM was brought to −78° C., was added tri-isopropyl borate (12.81 g, 68.0 mmol), once the temperature to reached room temperature and stirred about 16 h. Then removed the solvent under reduced pressure and quenched with saturated NH4Cl solution and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous Na2SO4 and removed the solvent under reduced pressure. The obtained crude material was purified by silica gel column chromatography to obtain white solid. (0.4 g, yield: 12.5%).

reactant | 4-bromo-3,5-dimethyl-1,2-oxazole | 22.7 mmol, 4.0 g | BrC=1C(=NOC1C)C | C5H6BrNO
reactant | n-butyl lithium | 45.0 mmol, 1.6M, 28.4 mL | C(CCC)[Li]
reactant | tri-isopropyl borate | 68.0 mmol, 12.81 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (3,5-Dimethyl-1,2-oxazol-4-yl) boronic acid | yield: 12.5% | CC1=NOC(=C1B(O)O)C | C5H8BNO3
